US08048881B2
417.2. 4-(4,4,5,5-tetramethyl-[1, 3, 2]dioxaborolan-2-yl)-3,6-dihydro-2H-pyran
Intermediate 417.1 (151 mg), bis(pinacolato)diboron (142 mg), bis(triphenylphosphine) palladium (II) dichloride (11 mg), triphenylphosphine (8 mg) and K2CO3 (104 mg) were dissolved in anhydrous dioxane (3 ml) under argon and refluxed overnight. After cooling down, a NaCl solution was added and the mixture was extracted with Hept. The org. layers were dried (Na2SO4) and evaporated off. The compound was used in the next step without purification or characterisation.

reactant | bis(pinacolato)diboron | 142 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | triphenylphosphine | 8 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | K2CO3 | 104 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | NaCl | [Na+].[Cl-]
solvent | dioxane | 3 ml | O1CCOCC1 | C4H8O2
catalyst | bis(triphenylphosphine) palladium (II) dichloride | 11 mg | [Pd](Cl)Cl.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 4-(4,4,5,5-tetramethyl-[1, 3, 2]dioxaborolan-2-yl)-3,6-dihydro-2H-pyran | CC1(OB(OC1(C)C)C=1CCOCC1)C | C11H19BO3
